US05807857
4. Ethyl-3-[1-tert-butyloxycarbonyl-5-(1,2,4-triazol-1-yl)pyrrolo[2,3-c]pyridin-3-yl]prop-2-enoate
A solution of 1-tert-butyloxycarbonyl-3-formyl-5-(1,2,4-triazol-1-yl)pyrrolo[2,3-c]pyridine (1.5 g, 4.8 mmol) and (carboethoxymethylene)triphenylphosphorane (2.0 g, 5.8 mmol) in toluene (30 mL) was heated at 80° C. under nitrogen for 90 min. The mixture was allowed to cool and the solvent was evaporated in vacuo. The residue was chromatographed on silica eluting with 20% EtOAc in DCM to give a colourless solid. This was triturated with ether and the solid rechromatographed on silica with 20% EtOAc in DCM to give the title compound (1.77 g, 96%) as a colourless solid. mp 178°-181° C. 1H NMR (360 MHz, CDCl3) δ 1.37 (3H, t, J=7.1Hz), 1.73 (9H, s), 4.31 (2H, q, J=7.1Hz), 6.59 (1H, d, J=16.2Hz), 7.81 (1H, d, J=16.2Hz), 8.03 (1H, s), 8.14 (1H, s), 8.30 (1H, s), 9.21 (1H, s) and 9.26 (1H, br s).

reactant | 1-tert-butyloxycarbonyl-3-formyl-5-(1,2,4-triazol-1-yl)pyrrolo[2,3-c]pyridine | 4.8 mmol, 1.5 g | C(C)(C)(C)OC(=O)N1C=C(C=2C1=CN=C(C2)N2N=CN=C2)C=O | C15H15N5O3
reactant | (carboethoxymethylene)triphenylphosphorane | 5.8 mmol, 2.0 g | C(=O)(OCC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
reactant | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | Ethyl-3-[1-tert-butyloxycarbonyl-5-(1,2,4-triazol-1-yl)pyrrolo[2,3-c]pyridin-3-yl]prop-2-enoate | 1.77 g, 96% | C(C)OC(C=CC1=CN(C2=CN=C(C=C21)N2N=CN=C2)C(=O)OC(C)(C)C)=O | C19H21N5O4
